US07345048B2
N-(2-Amino-ethyl)-3-[(5,7-diamino-pyrimido[4,5-d]pyrimidin-2-yl)-(2-ethoxy-naphthalen-1-ylmethyl)-amino]-2-hydroxy-propionamide
To 3-[(5,7-diamino-pyrimido[4,5-d]pyrimidin-2-yl)-(2-ethoxy-naphthalen-1-ylmethyl)-amino]-2-hydroxy-propionic acid (200 mg, 0.445 mmol) in dry DMF (2 ml) was added BroP (249 mg, 0.534 mmol). After the mixture was stirred for 30 min, DIEA (126 mg, 0.979 mmol) was added. After stirring for another 20 min, ethylene diamine (53.5 mg, 0.89 mmol) was added. The mixture was then stirred at room temperature for 16 hours and was directly purified by prep HPLC to yield 35 mg (16%) of the title compound: MS m/z (M+H) 492.

reactant | 3-[(5,7-diamino-pyrimido[4,5-d]pyrimidin-2-yl)-(2-ethoxy-naphthalen-1-ylmethyl)-amino]-2-hydroxy-propionic acid | 0.445 mmol, 200 mg | NC1=C2C(=NC(=N1)N)N=C(N=C2)N(CC(C(=O)O)O)CC2=C(C=CC1=CC=CC=C21)OCC | C22H23N7O4
reactant | BroP | 0.534 mmol, 249 mg | CN(C)[P+](N(C)C)(N(C)C)Br.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.979 mmol, 126 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | ethylene diamine | 0.89 mmol, 53.5 mg | C(CN)N | C2H8N2
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | N-(2-Amino-ethyl)-3-[(5,7-diamino-pyrimido[4,5-d]pyrimidin-2-yl)-(2-ethoxy-naphthalen-1-ylmethyl)-amino]-2-hydroxy-propionamide | 35 mg, 16% | NCCNC(C(CN(CC1=C(C=CC2=CC=CC=C12)OCC)C=1N=CC=2C(=NC(=NC2N)N)N1)O)=O | C24H29N9O3
